US04731479
N-Sulfamyl-3-chloropropionamidine hydrochloride
To a suspension of 9.61 g. (0.10 mole) of sulfamide in 60 ml (68 g., 0.76 mole) of 3-chloropropionitrile dry hydrogen chloride gas is introduced under stirring at 50° to 60° C. for 5 hours. The gain in weight is about 9 to 12 g. The reaction mixture is then cooled with ice water for one hour, the product is filtered off, washed twice with acetone and dried up to steady weight.

reactant | sulfamide | 0.10 mole | S(=O)(=O)(N)N | H4N2O2S
reactant | 3-chloropropionitrile | 0.76 mole, 60 ml, 68 g | ClCCC#N | C3H4ClN
product | N-Sulfamyl-3-chloropropionamidine hydrochloride | Cl.S(N)(=O)(=O)NC(CCCl)=N | InChI=1S/C3H8ClN3O2S.ClH/c4-2-1-3(5)7-10(6,8)9;/h1-2H2,(H2,5,7)(H2,6,8,9);1H
